US05929281
A 200 ml Kjeldahl flask equipped with a cooling condenser and a thermometer was charged with a solution of 22.0 g of piperazine in 20 ml of o-xylene, a solution of 7.47 g of 1-bromo-4-fluorobenzene in 20 ml of o-xylene, and a solution of 5.66 g of NaOBut in 20 ml of o-xylene, and further with a solution of 48 mg of palladium acetate in 5 ml of o-xylene (the ratio of palladium atom/1-bromo-4-fluorobenzene=0.5% by mole). The flask was flushed with nitrogen for about 20 minutes while the content was stirred, and 0.25 ml of tri-tert.-butylphosphine was added. Then the mixture was heated to 120° C., and maintained at that temperature for 3 hours with stirring. After completion of the reaction, 80 ml of water was added to cool the reaction product. The mixture was introduced in a separatory funnel and the organic phase was separated. The lower aqueous phase was extracted with 40 ml of o-xylene. The organic phase was dried over sodium sulfate. Gas chromatographic analysis of the obtained product by the internal standard method revealed that the intended arylamine, i.e., N-(4-fluorophenyl)piperazine was obtained in a yield of 95% by mole.

reactant | piperazine | 22.0 g | N1CCNCC1 | C4H10N2
reactant | 1-bromo-4-fluorobenzene | 7.47 g | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 5 ml | CC=1C=CC=CC1C | C8H10
catalyst | palladium acetate | 48 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(4-fluorophenyl)piperazine | yield of 95% | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
